.suckt  two_stage_fully_differential_op_amp_6_12 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m3 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m4 outInputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m5 outVoltageBiasXXnXX3 ibias sourcePmos sourcePmos pmos
m6 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m7 outFeedback outFeedback sourceNmos sourceNmos nmos
m8 FeedbackStageYsourceTransconductance1 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m9 FeedbackStageYinnerStageBias1 ibias sourcePmos sourcePmos pmos
m10 FeedbackStageYsourceTransconductance2 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m11 FeedbackStageYinnerStageBias2 ibias sourcePmos sourcePmos pmos
m12 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m13 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m14 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m15 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m16 out1FirstStage outVoltageBiasXXnXX3 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m17 FirstStageYsourceGCC1 outFeedback sourceNmos sourceNmos nmos
m18 out2FirstStage outVoltageBiasXXnXX3 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m19 FirstStageYsourceGCC2 outFeedback sourceNmos sourceNmos nmos
m20 out1FirstStage ibias sourcePmos sourcePmos pmos
m21 out2FirstStage ibias sourcePmos sourcePmos pmos
m22 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m23 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m24 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m25 out1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m26 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m27 out1 outVoltageBiasXXpXX1 SecondStage1YinnerTransconductance SecondStage1YinnerTransconductance pmos
m28 SecondStage1YinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos
m29 out2 outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos
m30 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m31 out2 outVoltageBiasXXpXX1 SecondStage2YinnerTransconductance SecondStage2YinnerTransconductance pmos
m32 SecondStage2YinnerTransconductance out2FirstStage sourcePmos sourcePmos pmos
m33 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m34 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m35 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m36 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos
m37 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m38 outVoltageBiasXXnXX3 outVoltageBiasXXnXX3 sourceNmos sourceNmos nmos
m39 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m40 ibias ibias sourcePmos sourcePmos pmos
.end two_stage_fully_differential_op_amp_6_12

