.suckt  two_stage_single_output_op_amp_6_12 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
m1 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos
m4 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos
m5 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m6 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos
m7 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m8 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m9 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c2 out sourceNmos 
m10 out ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m11 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m12 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos
m13 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos
m14 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m16 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m17 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
.end two_stage_single_output_op_amp_6_12

