.suckt  one_stage_single_output_op_amp21 ibias in1 in2 out sourceNmos sourcePmos
m1 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 nmos
m2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos
m3 out FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m4 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos
m5 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias pmos
m6 FirstStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m7 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m8 out in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c1 out sourceNmos 
m9 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos
m10 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
.end one_stage_single_output_op_amp21

