.suckt  two_stage_single_output_op_amp_7_7 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
m1 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m2 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos
m3 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos
m4 outFirstStage FirstStageYinnerSourceLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos
m6 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m7 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c2 out sourceNmos 
m9 out inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m10 out outFirstStage sourcePmos sourcePmos pmos
m11 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m12 ibias ibias sourcePmos sourcePmos pmos
.end two_stage_single_output_op_amp_7_7

